US05968967
1-(4-Cyanophenyl)-4-ethoxycarbonyl-2-methyl-3-phenyl-2H-pyrazol-5-one
4.7 g of the title compound was prepared as colorless crystals from 14.6 g of ethyl 3-chloro-2-ethoxycarbonyl-3-phenyl-acrylate, 11.0 g of 1-(4-cyanophenyl)-2-methyl-hydrazine and toluene in the same manner as in Reference Example 5.

reactant | ethyl 3-chloro-2-ethoxycarbonyl-3-phenyl-acrylate | 14.6 g | ClC(=C(C(=O)OCC)C(=O)OCC)C1=CC=CC=C1 | C14H15ClO4
reactant | 1-(4-cyanophenyl)-2-methyl-hydrazine | 11.0 g | C(#N)C1=CC=C(C=C1)NNC | C8H9N3
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-(4-Cyanophenyl)-4-ethoxycarbonyl-2-methyl-3-phenyl-2H-pyrazol-5-one | 4.7 g | C(#N)C1=CC=C(C=C1)N1N(C(=C(C1=O)C(=O)OCC)C1=CC=CC=C1)C | C20H17N3O3
